US08729078B2
In a 25 mL round-bottomed flask, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (43 mg, 76.0 μmol) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (2.00 mg, 4.66 μmol, Eq: 0.0613) were combined with ethanol (1.00 ml) and water (1.00 ml) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h. The crude reaction mixture was concentrated in vacuo. Mixture was diluted with acetonitrile and water and filtered. The resultant filtrate was lyophilized to give 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(4-methyl-piperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (35 mg, 97%, [M+H]+ 584).

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 76.0 μmol, 43 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCN(CC2)C)C#N)CO | C32H32FN7O2
reactant | ethanol | 1.00 ml | C(C)O | C2H6O
solvent | water | 1.00 ml | O | H2O
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(4-methyl-piperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 35 mg, 97% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCN(CC2)C)C(=O)N)CO | C32H34FN7O3
